US04202899
3.5 g of 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester (0.01 mol) and 7.3 g of n-butylamine are refluxed together with 30 ml of alcohol with stirring for 8 hours. The solution is evaporated to dryness and the residue treated with water and filtered off. Recrystallization from ethyl acetate yields 3.2 g (84%) of 5-(n-butylamino)-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester; m.p. 275°-277°.

reactant | 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | 0.01 mol, 3.5 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=CC2C(=O)OCC | C15H13ClN6O2
reactant | n-butylamine | 7.3 g | C(CCC)N | C4H11N
product | 5-(n-butylamino)-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | 3.2 g, 84% | C(CCC)NC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=CC2C(=O)OCC | C19H23N7O2
